US07652143B2
2-(3-(4-Benzyloxybenzyl)-2-oxoimidazolidin-1-yl)-3-methylbutyric acid (50 mg; 0.13 mmol) was dissolved in tetrahydrofuran (THF; 2 ml). At 0° C., diisopropylethylamine (DIEA; 69 μl; 0.39 mmol) and ethyl chloroformate (25 μl; 0.26 mmol) were successively added. The mixture was allowed to reach RT from 0° C. over the course of 2 h, and then O-trimethylsilylhydroxylamine (50 μl; 0.65 mmol) was added. Stirring at RT for a further 3 h was followed by partitioning between dilute HCl (10 ml) and EtOAc (10 ml). The phases were separated and the aqueous phase was extracted with EtOAc (3×; 5 ml). The combined organic phases were dried over MgSO4. The solvent was removed under reduced pressure. Trituration of the residue with EtOAc (2 ml) resulted in 2-(3-(4-benzyloxybenzyl)-2-oxoimidazolidin-1-yl)-N-hydroxy-3-methylbutyramide (25 mg; 0.06 mmol). MS: 398.15 (M+H); Rt: 1.30 min (method: gradient 0 min 96% H2O (0.05% TFA) 2.0 min 95% acetonitrile, 95% acetonitrile to 2.4 min, 4% acetonitrile 2.45 min; flow rate 1 ml/min; column 0.4 μL (YMC J'sphere ODS H80 20X2 1.4μ); 30° C.)

reactant | 2-(3-(4-Benzyloxybenzyl)-2-oxoimidazolidin-1-yl)-3-methylbutyric acid | 0.13 mmol, 50 mg | C(C1=CC=CC=C1)OC1=CC=C(CN2C(N(CC2)C(C(=O)O)C(C)C)=O)C=C1 | C22H26N2O4
reactant | diisopropylethylamine | 0.39 mmol, 69 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ethyl chloroformate | 0.26 mmol, 25 μl | ClC(=O)OCC | C3H5ClO2
reactant | O-trimethylsilylhydroxylamine | 0.65 mmol, 50 μl | C[Si](ON)(C)C | C3H11NOSi
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | EtOAc | 2 ml | CCOC(=O)C | C4H8O2
product | 2-(3-(4-benzyloxybenzyl)-2-oxoimidazolidin-1-yl)-N-hydroxy-3-methylbutyramide | 0.06 mmol, 25 mg | C(C1=CC=CC=C1)OC1=CC=C(CN2C(N(CC2)C(C(=O)NO)C(C)C)=O)C=C1 | C22H27N3O4
